US07176242B2
To a stirred solution of methyl 5-butyryl-1-hydroxy-4-oxocyclohex-2-ene-1-carboxylate in benzene was added BF3.O (Et)2 (1.3 mL, 10 mmol). The mixture was stirred for 0.25 h and then quenched with saturated sodium bicarbonate followed by extraction with dichloromethane. The organic layer was dried (sodium sulfate), filtered, and concentrated under reduced pressure to afford methyl 3-butyryl-4-hydroxybenzoate which was used without further purification or characterization.

reactant | methyl 5-butyryl-1-hydroxy-4-oxocyclohex-2-ene-1-carboxylate | C(CCC)(=O)C1C(C=CC(C1)(C(=O)OC)O)=O | C12H16O5
reactant | BF3 | B(F)(F)F | BF3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 3-butyryl-4-hydroxybenzoate | C(CCC)(=O)C=1C=C(C(=O)OC)C=CC1O | C12H14O4
